US08049015B2
Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester and (5-bromo-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester were reacted as described in Example 3, Step 6 to provide (5-{2-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester.

reactant | Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H29BF3NO4
reactant | (5-bromo-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)Br)OC)=O | C10H12BrNO3
product | (5-{2-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)OC)=O | C28H29F3N2O5
